US07906677B2
A solution of 4.35 g 2,6-dichloro-aniline in 4 ml of tetrahydrofuran and 35 ml of chlorobenzene is cooled down to −40 to −45° C. At this temperature, 5.09 g of titanium-tetrachloride is added to the solution, followed by the addition of 5.0 g of 1-Methoxy-4-methylcyclohexa-1,4-diene. The reaction mixture is allowed to warm up to approximately −35° C. and stirred for 2 hours at this temperature. A solution of 10.18 g of iodine in 20 ml of tetrahydrofuran and 2.3 ml of acetic acid is then added dropwise to the reaction mixture and the temperature was allowed to warm up to 0° C. The mixture was stirred for 1 hour at 0° C. and 16 hours at 25° C. Then 3.4 g of iodine is added to the reaction mixture and stirring is continued for additional 24 hours at 25° C. The reaction is finally quenched by pouring the reaction mixture onto a mixture of 250 ml of aqueous Sodium bisulfite (38-40%) and 400 ml of saturated aqueous sodium carbonate. The water phase is extracted with ethyl acetate (1×200 ml and 2×100 ml), the ethyl acetate phases are unified and washed with 100 ml of water. The organic phase was dried over anhydrous sodium sulfate and evaporated in vacuo to yield 11.44 g of a dark slurry. The slurry was dissolved in hexane/t-butyl-methylether and the solution was filtered over silica gel to obtain, after evaporation of the solvent, 5.75 g of erode product. The product can be used directly in the next step. Alternatively, h can be purified e.g. by column chromatography on silica gel with hexane/t-butyl-methylether (9:1) as eluent to yield pure N-(2′,6′-Dichlorophenyl)-4-methylaniline.

reactant | 2,6-dichloro-aniline | 4.35 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | 1-Methoxy-4-methylcyclohexa-1,4-diene | 5.0 g | COC1=CCC(=CC1)C | C8H12O
reactant | iodine | 10.18 g | II | I2
reactant | iodine | 3.4 g | II | I2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | chlorobenzene | 35 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 2.3 ml | C(C)(=O)O | C2H4O2
solvent | hexane t-butyl-methylether | CCCCCC.C(C)(C)(C)OC
catalyst | titanium-tetrachloride | 5.09 g | [Ti](Cl)(Cl)(Cl)Cl
product | N-(2′,6′-Dichlorophenyl)-4-methylaniline | ClC1=C(C(=CC=C1)Cl)NC1=CC=C(C=C1)C | C13H11Cl2N
